US08067457B2
In a round-bottom flask, a solution of benzyl 4-(4-{(3R)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidin-1-yl}piperidin-1-yl)benzoate (120 mg, 0.20 mmol) in methanol (400 μL) and Palladium (10%) on Carbon (50 mg) was purged with hydrogen gas for two minutes; the reaction was then subjected to 1 atmosphere of hydrogen gas for two hours. The flask was purged with argon, then the mixture was filtered and concentrated to afford 4-(4-{(3R)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidin-1-yl}piperidin-1-yl)benzoic acid (101 mg, 96%) as an off-white solid. 1H-NMR (CD3OD) δ: 1.60-1.98 (m, 4H), 1.90-2.40 (m, 4H), 2.85-3.05 (m, 3H), 3.38-4.10 (m, 8H), 4.40-5.58 (m, 1H), 7.01 (d, J=9.0 Hz, 2H), 7.70 (t, J=8.1 Hz, 2H), 7.84-7.90 (m, 1H), 7.89 (d, J=8.7 Hz, 2H), 8.15 (d, J=7.8 Hz, 1H), 8.22 (s, 1H). MS m/z: 519 (M+1).

reactant | benzyl 4-(4-{(3R)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidin-1-yl}piperidin-1-yl)benzoate | 0.20 mmol, 120 mg | FC(C=1C=C(C(=O)NCC(=O)N[C@H]2CN(CC2)C2CCN(CC2)C2=CC=C(C(=O)OCC3=CC=CC=C3)C=C2)C=CC1)(F)F | C33H35F3N4O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 400 μL | CO | CH4O
solvent | Palladium | [Pd] | Pd
product | 4-(4-{(3R)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidin-1-yl}piperidin-1-yl)benzoic acid | 101 mg, 96% | FC(C=1C=C(C(=O)NCC(=O)N[C@H]2CN(CC2)C2CCN(CC2)C2=CC=C(C(=O)O)C=C2)C=CC1)(F)F | C26H29F3N4O4
